US07544697B2
Oxalyl chloride (7.8 mL, 90.0 mmol) was added slowly via syringe to a solution of 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylic acid (10.5 g, 30.0 mmol) in 100 mL of dichloromethane containing one drop of DMF. After 2 hours of stirring, saturated ammonium chloride (100 mL) was added to the reaction mixture and the reaction was maintained for 1 hour. The reaction mixture was concentrated under reduced pressure, diluted with dichloromethane and washed with water. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated to afford 10.4 g of 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxamide.

reactant | Oxalyl chloride | 90.0 mmol, 7.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylic acid | 30.0 mmol, 10.5 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C(=O)O | C17H22N2O4S
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
catalyst | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxamide | 10.4 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C(=O)N | C17H23N3O3S
